US07118787B2
9,9-Dioctyl-2-hydroxy-7-(4-Nonylphenyl)fluorene:
A 1 M solution of boron tribromide in dichloromethane, (0.55 cm3, 0.00581 mol) was added dropwise to a stirred solution of 9,9-dioctyl-2-(4-nonylphenyl)-7-octyloxyfluorene (2.79 g, 0.00388 mol) and dichloromethane (100 cm3) at 0° C. The temperature was allowed to rise to RT overnight and the solution added to ice-water (200 cm3) with vigorous stirring. The product was extracted into diethyl ether (2×200 cm3). The combined organic extracts were washed with saturated aqueous sodium carbonate solution (150 cm3), dried (MgSO4), filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography [silica gel, dichloromethane:hexane: 20:80] (yield 2.2 g, 93.4%).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 9,9-dioctyl-2-(4-nonylphenyl)-7-octyloxyfluorene | 0.00388 mol, 2.79 g | C(CCCCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C1=CC=C(C=C1)CCCCCCCCC)OCCCCCCCC)CCCCCCCC | C52H80O
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 0.00581 mol, 0.55 cm3 | ClCCl | CH2Cl2
product | 9,9-Dioctyl-2-hydroxy-7-(4-Nonylphenyl)fluorene | C(CCCCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)O)C1=CC=C(C=C1)CCCCCCCCC)CCCCCCCC | C44H64O
